US07547713B2
Synthesis of 5,6-di(p-methoxyphenylamino)-2,3-pyridindione
2,3-dihydroxypyridine (0.0027 mol), p-methoxyaniline (0.0054 mol); and NaIO3 (0.0009 mol) were dissolved in 160 ml of water/acetone (80:1, v/v) solvent. The reaction mixture was stirred for 2 hours, and maintained still overnight. It was then filtered, and recrystallized with chloroform. The final product was 5,6-di(p-methoxyphenylamino)-2,3-pyridindione in a red powder. The yield was 32%-50%.

reactant | 2,3-dihydroxypyridine | 0.0027 mol | OC1=NC=CC=C1O | C5H5NO2
reactant | p-methoxyaniline | 0.0054 mol | COC1=CC=C(N)C=C1 | C7H9NO
solvent | water acetone | 160 ml | O.CC(=O)C
product | 5,6-di(p-methoxyphenylamino)-2,3-pyridindione | yield was 32%-50% | COC1=CC=C(C=C1)NC1=CC(C(N=C1NC1=CC=C(C=C1)OC)=O)=O | C19H17N3O4
